US04511504
N[1-(R)-Carboxyethyl]-L-Leucine N-Phenethylamide
N[1-(R)-Ethoxycarbonylethyl]-L-Leucine N-phenethylamide (710 mg, 2.1 mM) was dissolved in MeOH (50 ml) and treated with IN NaOH (3 ml, 3 mM) at room temperature. After 12 h, the reaction mixture was acidified with AcOH and evaporated in vacuo to a solid which was washed with H2O and dried to yield the title compound (400 mg); m.p. 201°-205°; (Found: C,66.44; H,8.55; N,9.11; C17H26N2O3 requires C,66.64; H,8.55; N,9.14%); νmax (Nujol) 3330, 1660 and 1530 cm-1 ; δ(d6DMSO) 0.825 (6H,t,J=6.2 Hz, (CH3)2CH), 1.15 (3H,d, J=6.8 Hz, CH3CH), 1.29 (2H,m,CH2CH), 1.55 (1H, heptet,J=7 Hz, CH(CH3)2), 2.71 (2H,t,J=7 Hz, CH2C6H5), 3.0 (1H,q,J=7 Hz, CHCH3), 3.14 (1H,t,J=7 Hz, α--CH), 3.32 (2H,q,J=6 Hz, NHCH2CH2), 7.12 (5H,m,C6H5), 7.5 (2H,br s, OH and CHNHCH) and 8.15 (2H,t,J=5 Hz, NHCH2).

reactant | N[1-(R)-Ethoxycarbonylethyl]-L-Leucine N-phenethylamide | 2.1 mM, 710 mg | C(CC1=CC=CC=C1)NC([C@@H](N[C@H](C)C(=O)OCC)CC(C)C)=O | C19H30N2O3
reactant | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | 50 ml | CO | CH4O
solvent | NaOH | 3 mM, 3 ml | [OH-].[Na+]
product | N[1-(R)-Carboxyethyl]-L-Leucine N-Phenethylamide | 400 mg | C(CC1=CC=CC=C1)NC([C@@H](N[C@H](C)C(=O)O)CC(C)C)=O | C17H26N2O3
